US05504078
METHYL 2,3,6-TRI-O-BENZYL-4-O-TRIFLUOROMETHYLSULFONYL-α-D-GALACTOPYRANOSIDE
To a solution of dry pyridine (0.46 ml) in methylene chloride (17.5 ml) cooled to -15° C. is added trifluoromethane sulfonic anhydride (0.87 ml). The mixture is stirred during 15 min at -10° C., then methyl 2,3,6-tri-O-benzyl-α-D-galacto-pyranoside (1.2 g, 2.58 mmol) in methylene chloride (5 ml) is added (N. Morishima, S. Koto, M. Oshima, A. Sugimoto and S. Zen, Bull. Chem. Soc. Jpn., 56, 2849 (1983)). The mixture is washed with water. The organic layer is dried over sodium sulfate, filtered and concentrated under reduced pressure so as to afford an oil which is the expected trillate methyl 2,3,6-tri-O-benzyl-4-O-trifluoromethyl-sulfonyl-α-D-galactopyranoside.

reactant | pyridine | 0.46 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 0.87 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 2,3,6-tri-O-benzyl-α-D-galacto-pyranoside | 2.58 mmol, 1.2 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C28H32O6
reactant | methyl 2,3,6-tri-O-benzyl-4-O-trifluoromethyl-sulfonyl-α-D-galactopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OC(F)(F)F)C(OCC1=CC=CC=C1)=S(=O)=O | C29H29F3O8S
solvent | methylene chloride | 17.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | METHYL 2,3,6-TRI-O-BENZYL-4-O-TRIFLUOROMETHYLSULFONYL-α-D-GALACTOPYRANOSIDE | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1 | C29H31F3O8S
